US06815567B2
4-bromomethyl-3,5-dinitro benzyl alcohol(800 mg, 2.75 mmol), anhydrous ethanol(10 ml) and potassium thioacetate(380 mg, 3.3 mmol) were charged into a 200 ml 2-neck round bottom flask equipped with condenser, dropping funnel and stirrer and put in an oil bath maintaining 150° C. and having thermocouple. The resulting mixture solution was heated at 100° C. for 30 minutes and cooled to ambient temperature. White solid formed during the reaction was filtered away and the filterate was concentrated by removing the solvent under reduced temperature. Pale yellow solid of 4-acetylsulfanylmethyl-3,5-dinitrobenzyl alcohol (710 mg, 2.48 mmol, yield 90%) was obtained by purification on a silica gel chromatography using 20% ethylacetate-hexane solvent system. Nuclear magnetic resonance (NMR) spectrum showed that the product has identical structure with compound V and the NMR data was set forth below.

reactant | 4-bromomethyl-3,5-dinitro benzyl alcohol | 2.75 mmol, 800 mg | BrCC1=C(C=C(CO)C=C1[N+](=O)[O-])[N+](=O)[O-] | C8H7BrN2O5
reactant | potassium thioacetate | 3.3 mmol, 380 mg | C(C)(=S)[O-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-acetylsulfanylmethyl-3,5-dinitrobenzyl alcohol | 2.48 mmol, 710 mg, yield 90% | C(C)(=O)SCC1=C(C=C(CO)C=C1[N+](=O)[O-])[N+](=O)[O-] | C10H10N2O6S
